US05998436
Synthesis of ethyl 1-(6-amino-3,5-difluoropyridin-2-yl)-5-benzylamino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 600 mg of ethyl 5-benzylamino-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate was added 2 ml of trifluoroacetic acid, and the mixture was allowed to stand at room temperature for 20 minutes. The solution was concentrated under reduced pressure, and 3 ml of ethanol was added to the residue, and the solution was again concentrated under reduced pressure. The precipitate was dispersed in ethanol, collected by filtration and washed with ethanol to obtain 530 mg of the title compound as a yellow powder.

reactant | ethyl 5-benzylamino-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 600 mg | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=NC(=C(C=C1F)F)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O | C32H25F5N4O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 1-(6-amino-3,5-difluoropyridin-2-yl)-5-benzylamino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 530 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NCC1=CC=CC=C1)=O)C(=O)OCC)F)F | C24H17F5N4O3
